US04003750
3-Methyl-4-phenylpyrido[2,1-b]benzothiazolium bromide
1,2-Dihydro-3-methyl-4-phenylpyrido[2,1-b]benzothiazolium bromide is prepared by reacting 3-(2-acetylethyl)-2-benzylbenzothiazolium bromide (1.0 g.) dissolved in 25 ml. of dimethyl sulfoxide. The reaction mixture is heated to reflux for several minutes and cooled. The resulting tan solid precipitate is filtered, washed with ether and dried to give 0.7 g. (72% yield) of product having a melting point of 208°-210° C. 1,2-Dihydro-3-methyl-4-phenylpyrido[2,1-b]benzothiazolium bromide (1.0 g.) is heated in 15 ml. of dimethylsulfoxide to 160° C and held for several minutes. As the mixture cools, 5 ml. each of ether and ethanol are added, precipitating some of the starting material. The addition of more ether causes the slow crystallization of the product, which on recrystallization from ethanol, is obtained in 30% yield (0.3 g.). The product has a melting point of 285°-287° C with decomposition. The NMR spectrum verifies a completely aromatic ring system. When this example is repeated, except that 3-(2-acetylethyl)-2-methylbenzothiazolium bromide is used as the starting material, there is obtained, in somewhat lower yield, 3-methylpyrido[2,1-b]benzothiazolium bromide, which is a useful intermediate in preparing dyes in accordance with this invention.

reactant | 1,2-Dihydro-3-methyl-4-phenylpyrido[2,1-b]benzothiazolium bromide | 1.0 g | [Br-].CC1=C(C=2SC3=C([N+]2CC1)C=CC=C3)C3=CC=CC=C3
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3-(2-acetylethyl)-2-methylbenzothiazolium bromide | [Br-].C(C)(=O)CC[N+]1=C(SC2=C1C=CC=C2)C
reactant | 3-methylpyrido[2,1-b]benzothiazolium bromide | [Br-].CC1=CC=2SC3=C([N+]2C=C1)C=CC=C3
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 3-Methyl-4-phenylpyrido[2,1-b]benzothiazolium bromide | [Br-].CC1=C(C=2SC3=C([N+]2C=C1)C=CC=C3)C3=CC=CC=C3 | InChI=1S/C18H14NS.BrH/c1-13-11-12-19-15-9-5-6-10-16(15)20-18(19)17(13)14-7-3-2-4-8-14;/h2-12H,1H3;1H/q+1;/p-1
